US05055458
A solution of 4-chloro-6-[3-(diethoxyphosphorylmethoxy)propoxyamino]-2,5-diformamidopyrimidine (4.48 g, 10 mmol) in diethoxymethyl acetate (40 ml) was heated at 120° C. for 2.5 h. After removal of the solvent in vacuo. the residue was dissolved in methanol (50 ml) and 0.88 ammonia (2 ml) then stirred at 25° C. for 2 h. The reaction was then reduced in vacuo and co-evaporated twice with methanol before chromatography of the residue in chloroform/methanol (100:1) to give 6-chloro-9-[3-(diethoxyphosphorylmethoxy)propoxy]-2-formamidopurine (2.92 g, 69.2%) as a yellow oil. νmax (film) 3117,1709, 1612, 1577, 1508, 1244, 1027 cm-1 ; δH [(CD3)2SO] 1.23(6H, t, J7 Hz,(CH3CH2O)2), 1.97(2H, m, CH2CH2CH2), 3.74(2H, t, J6.1Hz, CH2OCH 2 P), 3 84(2H, d, J8.0 Hz, CH2P), 4.04(4H, m, (CH3CH2O)2), 4.48(2H, t, J6.3 Hz, CH2ON), 8.83(1H, s, H-8), 9.37(1H, br.s, CHO), 11.30(1H, br.s, D2O exchangeable, NH); Found: C, 40.05; H, 5.22; N, 16.85%; M+, 421.0921. C14H23ClN5O7P requires: C, 39.87; H, 5.02; N, 16.60%; M+, 421.0918.

reactant | 4-chloro-6-[3-(diethoxyphosphorylmethoxy)propoxyamino]-2,5-diformamidopyrimidine | 10 mmol, 4.48 g | ClC1=NC(=NC(=C1NC=O)NOCCCOCP(=O)(OCC)OCC)NC=O | C14H23ClN5O7P
solvent | diethoxymethyl acetate | 40 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 6-chloro-9-[3-(diethoxyphosphorylmethoxy)propoxy]-2-formamidopurine | 2.92 g, 69.2% | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCCOCP(=O)(OCC)OCC | C14H21ClN5O6P
